US08957203B2
Preparation of tert-butyl 1-fluoromethylcyclopropylsulfonylcarbamate
A solution of tert-butyl 1-hydroxymethylcyclopropylsulfonylcarbamate (26 g, 103 mmol) in DCM (300 mL) was cooled to −78° C. To this solution was added DAST (41 mL, 310 mmol) and the reaction mass was stirred at the same temperature for 30 min. The reaction mass was quenched with aqueous 1N NaOH solutions. The organic layer was separated and the aqueous layer was acidified to pH ˜2 by using 1.5 N HCl solutions. The aqueous solution was extracted with DCM (50 mL×4). The combined organic layer was dried over anhydrous sodium sulphate and evaporated to get desired compound (19 g, 72%) as gummy mass. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.25 (sb, 1H), 4.75 (s, 1H), 4.63 (s, 1H), 1.44 (s, 9H), 1.28 (m, 2H), 1.07 (m, 2H). 19F NMR: −211.7 (1F).

reactant | tert-butyl 1-hydroxymethylcyclopropylsulfonylcarbamate | 103 mmol, 26 g | OCC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C9H17NO5S
reactant | DAST | 310 mmol, 41 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-fluoromethylcyclopropylsulfonylcarbamate | 19 g, 72% | FCC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C9H16FNO4S
